US05236912
168 g of 15α-hydroxy-4-androstene-3,17-dione in 250 ml of pyridine and 125 ml of acetic anhydride are heated on a steam bath. After 90 minutes, the reaction mixture is stirred into ice/water. The thus-precipitated product is suctioned off, taken up in methylene chloride, washed with water, and dried over sodium sulfate. After recrystallization from ethyl acetate, 120 g of 15α-acetoxy-4-androstene-3,17-dione is obtained, mp 145° C.

reactant | 15α-hydroxy-4-androstene-3,17-dione | 168 g | O[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H26O3
reactant | acetic anhydride | 125 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 15α-acetoxy-4-androstene-3,17-dione | 120 g | C(C)(=O)O[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C21H28O4
